US05654299
a. 1-Benzyloxycarbonyl-4-hydroxy-4-(2-pyridyl)piperidine
To a solution of 2-bromopyridine (1.58 g) in 50 mL of anhydrous tetrahydrofuran at -78° C. was added tert-butyl lithium (6.5 mL of 1.7M) and the reaction mixture was stirred at -78° C. for 1 hour. At the end of this period, a solution of 1-benzyloxycarbonyl-4-oxopiperidine (2.34 g) in 20 mL of anhydrous tetrahydrofuran was added and the reaction mixture was allowed to stir at -78° C. for an additional 1 hour. Upon warming the reaction mixture to room temperature, aqueous ammonium chloride was added and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with sodium chloride, dried over magnesium sulfate and evaporated to afford the crude product. This a material was purified by column chromatography; elution with 1:1 hexane:ethyl acetate afforded the named product (1.0 g); MS: 313; NMR: 6.63 (m, 3), 1.94 (m, 2), 3.37 (m, 2), 4.13 (m, 2).

reactant | 2-bromopyridine | 1.58 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | tert-butyl lithium | 1.7M, 6.5 mL | C(C)(C)(C)[Li]
reactant | 1-benzyloxycarbonyl-4-oxopiperidine | 2.34 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)=O | C13H15NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-Benzyloxycarbonyl-4-hydroxy-4-(2-pyridyl)piperidine | 1.0 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)(C1=NC=CC=C1)O | C18H20N2O3
